US04771055
A solution of 5.9 g (20 mmol) of 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 20 ml of trifluoroacetic anhydride, and 100 ml of trifluoro acetic acid was stirred at room temperature overnight. The solution was evaporated to dryness and the residue was triturated with water and filtered to give 7.55 g of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-5-[(trifluoroacetyl)amino]-3-quinolinecarboxylic acid, mp 188°.

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 20 mmol, 5.9 g | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | trifluoroacetic anhydride | 20 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | trifluoro acetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-5-[(trifluoroacetyl)amino]-3-quinolinecarboxylic acid | 7.55 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)NC(C(F)(F)F)=O)=O)C(=O)O | C15H8F6N2O4
